* Frozen netlist snapshot for record 20260801-185517-d696683
* sources    : dut.spice + tb_pfd_deadzone.spice (composed at record time, in this order)
* sha256     : 428d6c291d329f2eb86e2391c38090991737bbbfc6d4b2478b2a92f325334f8c (of this composed text)
* This is a verbatim composition taken at record time. Do not edit.

* ---- sim/pfd-deadzone/work/dut-export/pfd_cp/dut.spice (sha256 97856cc146493ffc31f96be947c1fc4fe55a302205f1e5749a6a1ffdb6a3cef4)
** sch_path: design/dut_export.sch

* expanding   symbol:  pfd_cp.sym # of pins=13
** sym_path: design/pfd_cp.sym
** sch_path: design/pfd_cp.sch
.subckt pfd_cp REF FB B0 B1 IBN ICN IBP ICP VOUT UP DN VDD VSS
*.ipin REF
*.ipin FB
*.ipin B0
*.ipin B1
*.iopin IBN
*.iopin ICN
*.iopin IBP
*.iopin ICP
*.iopin VOUT
*.opin UP
*.opin DN
*.iopin VDD
*.iopin VSS
xpfd REF FB UP DN VDD VSS pfd
xcp UP DN B0 B1 IBN ICN IBP ICP VOUT VDD VSS cp
.ends


* expanding   symbol:  pfd.sym # of pins=6
** sym_path: design/pfd.sym
** sch_path: design/pfd.sch
.subckt pfd REF FB UP DN VDD VSS
*.ipin REF
*.ipin FB
*.opin UP
*.opin DN
*.iopin VDD
*.iopin VSS
xed_ref REF PR VDD VSS edgedet
xed_fb FB PF VDD VSS edgedet
xinv_sr PR SBR VDD VSS pfdcp_inv_3v3
xinv_sf PF SBF VDD VSS pfdcp_inv_3v3
xlat_ref SBR RB UP UPB VDD VSS srlatch
xlat_fb SBF RB DN DNB VDD VSS srlatch
xnand_rst UP DN NRST VDD VSS pfdcp_nand2_3v3
xinv_r0 NRST RST_RAW VDD VSS pfdcp_inv_3v3
xd1 RST_RAW RD1 VDD VSS pfdcp_inv_3v3
xd2 RD1 RD2 VDD VSS pfdcp_inv_3v3
xd3 RD2 RD3 VDD VSS pfdcp_inv_3v3
xd4 RD3 RD4 VDD VSS pfdcp_inv_3v3
xd5 RD4 RD5 VDD VSS pfdcp_inv_3v3
xd6 RD5 RD6 VDD VSS pfdcp_inv_3v3
xd7 RD6 RD7 VDD VSS pfdcp_inv_3v3
xd8 RD7 RD8 VDD VSS pfdcp_inv_3v3
xd9 RD8 RD9 VDD VSS pfdcp_inv_3v3
xd10 RD9 RD10 VDD VSS pfdcp_inv_3v3
xd11 RD10 RD11 VDD VSS pfdcp_inv_3v3
xd12 RD11 RD12 VDD VSS pfdcp_inv_3v3
xd13 RD12 RD13 VDD VSS pfdcp_inv_3v3
xd14 RD13 RD14 VDD VSS pfdcp_inv_3v3
xd15 RD14 RD15 VDD VSS pfdcp_inv_3v3
xd16 RD15 RD16 VDD VSS pfdcp_inv_3v3
xd17 RD16 RD17 VDD VSS pfdcp_inv_3v3
xd18 RD17 RD18 VDD VSS pfdcp_inv_3v3
xd19 RD18 RD19 VDD VSS pfdcp_inv_3v3
xd20 RD19 RD20 VDD VSS pfdcp_inv_3v3
xd21 RD20 RD21 VDD VSS pfdcp_inv_3v3
xd22 RD21 RD22 VDD VSS pfdcp_inv_3v3
xd23 RD22 RD23 VDD VSS pfdcp_inv_3v3
xd24 RD23 RST_DLY VDD VSS pfdcp_inv_3v3
xinv_rb RST_DLY RB VDD VSS pfdcp_inv_3v3
.ends


* expanding   symbol:  cp.sym # of pins=11
** sym_path: design/cp.sym
** sch_path: design/cp.sch
.subckt cp UP DN B0 B1 IBN ICN IBP ICP VOUT VDD VSS
*.ipin UP
*.ipin DN
*.ipin B0
*.ipin B1
*.iopin IBN
*.iopin ICN
*.iopin IBP
*.iopin ICP
*.iopin VOUT
*.iopin VDD
*.iopin VSS
XMBN IBN IBN VSS VSS nfet_03v3 L=1u W=16u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMCN ICN ICN VSS VSS nfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBP IBP IBP VDD VDD pfet_03v3 L=1u W=48u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMCP ICP ICP VDD VDD pfet_03v3 L=1u W=12u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
xi_b0 B0 B0B VDD VSS pfdcp_inv_3v3
xi_b1 B1 B1B VDD VSS pfdcp_inv_3v3
xi_up UP UPB VDD VSS pfdcp_inv_3v3
xi_dn DN DNB VDD VSS pfdcp_inv_3v3
xn_base IBN ICN VDD VSS DNT VSS cp_leg_n
xn_t0 IBN ICN B0 B0B DNT VSS cp_leg_n
xn_t1a IBN ICN B1 B1B DNT VSS cp_leg_n
xn_t1b IBN ICN B1 B1B DNT VSS cp_leg_n
xp_base IBP ICP VDD VSS UPT VDD cp_leg_p
xp_t0 IBP ICP B0 B0B UPT VDD cp_leg_p
xp_t1a IBP ICP B1 B1B UPT VDD cp_leg_p
xp_t1b IBP ICP B1 B1B UPT VDD cp_leg_p
XMSWDN VOUT DN DNT VSS nfet_03v3 L=0.3u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDMPDN VDUMP DNB DNT VSS nfet_03v3 L=0.3u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMSWUP VOUT UPB UPT VDD pfet_03v3 L=0.3u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDMPUP VDUMP UP UPT VDD pfet_03v3 L=0.3u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDUMN VOUT DNB VOUT VSS nfet_03v3 L=0.3u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDUMP VOUT UP VOUT VDD pfet_03v3 L=0.3u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
xbuf VOUT IBN IBP VDUMP VDD VSS cp_dumpbuf
.ends


* expanding   symbol:  edgedet.sym # of pins=4
** sym_path: design/edgedet.sym
** sch_path: design/edgedet.sch
.subckt edgedet X PULSE VDD VSS
*.ipin X
*.opin PULSE
*.iopin VDD
*.iopin VSS
xi1 X D1 VDD VSS pfdcp_inv_3v3
xi2 D1 D2 VDD VSS pfdcp_inv_3v3
xi3 D2 D3 VDD VSS pfdcp_inv_3v3
xi4 D3 D4 VDD VSS pfdcp_inv_3v3
xi5 D4 D5 VDD VSS pfdcp_inv_3v3
xnd X D5 NN VDD VSS pfdcp_nand2_3v3
xi6 NN PULSE VDD VSS pfdcp_inv_3v3
.ends


* expanding   symbol:  pfdcp_inv_3v3.sym # of pins=4
** sym_path: design/pfdcp_inv_3v3.sym
** sch_path: design/pfdcp_inv_3v3.sch
.subckt pfdcp_inv_3v3 A Y VDD VSS
*.ipin A
*.opin Y
*.iopin VDD
*.iopin VSS
XMP Y A VDD VDD pfet_03v3 L=0.3u W=1.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN Y A VSS VSS nfet_03v3 L=0.3u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  srlatch.sym # of pins=6
** sym_path: design/srlatch.sym
** sch_path: design/srlatch.sch
.subckt srlatch SB RB Q QB VDD VSS
*.ipin SB
*.ipin RB
*.opin Q
*.opin QB
*.iopin VDD
*.iopin VSS
xn1 SB QB Q VDD VSS pfdcp_nand2_3v3
xn2 RB Q QB VDD VSS pfdcp_nand2_3v3
.ends


* expanding   symbol:  pfdcp_nand2_3v3.sym # of pins=5
** sym_path: design/pfdcp_nand2_3v3.sym
** sch_path: design/pfdcp_nand2_3v3.sch
.subckt pfdcp_nand2_3v3 A B Y VDD VSS
*.ipin A
*.ipin B
*.opin Y
*.iopin VDD
*.iopin VSS
XMP1 Y A VDD VDD pfet_03v3 L=0.3u W=1.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP2 Y B VDD VDD pfet_03v3 L=0.3u W=1.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN1 Y A NI VSS nfet_03v3 L=0.3u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN2 NI B VSS VSS nfet_03v3 L=0.3u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  cp_leg_n.sym # of pins=6
** sym_path: design/cp_leg_n.sym
** sch_path: design/cp_leg_n.sch
.subckt cp_leg_n VBN VCASCN EN ENB TAIL VSS
*.ipin VBN
*.ipin VCASCN
*.ipin EN
*.ipin ENB
*.iopin TAIL
*.iopin VSS
XMEN BG EN VBN VSS nfet_03v3 L=0.3u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDIS BG ENB VSS VSS nfet_03v3 L=0.3u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBOT MID BG VSS VSS nfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMCASC TAIL VCASCN MID VSS nfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  cp_leg_p.sym # of pins=6
** sym_path: design/cp_leg_p.sym
** sch_path: design/cp_leg_p.sch
.subckt cp_leg_p VBP VCASCP EN ENB TAIL VDD
*.ipin VBP
*.ipin VCASCP
*.ipin EN
*.ipin ENB
*.iopin TAIL
*.iopin VDD
XMEN BG ENB VBP VDD pfet_03v3 L=0.3u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDIS BG EN VDD VDD pfet_03v3 L=0.3u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMTOP MID BG VDD VDD pfet_03v3 L=1u W=12u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMCASC TAIL VCASCP MID VDD pfet_03v3 L=1u W=12u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  cp_dumpbuf.sym # of pins=6
** sym_path: design/cp_dumpbuf.sym
** sch_path: design/cp_dumpbuf.sch
.subckt cp_dumpbuf VREF VBN VBP VDUMP VDD VSS
*.ipin VREF
*.ipin VBN
*.ipin VBP
*.iopin VDUMP
*.iopin VDD
*.iopin VSS
XMTN NSRC VBN VSS VSS nfet_03v3 L=1u W=16u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN1 NDA VREF NSRC VSS nfet_03v3 L=1u W=16u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN2 VDUMP VDUMP NSRC VSS nfet_03v3 L=1u W=16u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN3 NDA NDA VDD VDD pfet_03v3 L=1u W=24u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN4 VDUMP NDA VDD VDD pfet_03v3 L=1u W=24u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMTP PSRC VBP VDD VDD pfet_03v3 L=1u W=48u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP1 PDA VREF PSRC PSRC pfet_03v3 L=1u W=48u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP2 VDUMP VDUMP PSRC PSRC pfet_03v3 L=1u W=48u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP3 PDA PDA VSS VSS nfet_03v3 L=1u W=16u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP4 VDUMP PDA VSS VSS nfet_03v3 L=1u W=16u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

* ---- sim/pfd-deadzone/testbench/tb_pfd_deadzone.spice (sha256 fed188f72d0c563fef53969e3d46706c14773f9acf788fc3075e8faebe2ff741)
* gf180-pll :: pfd-deadzone :: phase-to-charge transfer through zero phase
* error -- sim/harness manifest fragment
*
* DUT: `pfd_cp` from the xschem hierarchy in design/ -- the tri-state PFD
* driving the real charge pump, composed by tb.json's `dut_export`
* (design/netlist.sh --top pfd_cp).  Stimulus and measurement only here: a
* schematic edit this deck does not track is a netlist error, not a silently
* divergent second copy of the design.
*
* What this measures, and why the charge domain rather than the logic
* domain: a PFD "dead zone" is only incidentally a digital-logic property.
* What the loop actually sees is the CHARGE the pump delivers per reference
* cycle as a function of phase error, and a PFD whose UP/DN pulses are
* technically non-zero but too narrow to turn the charge-pump switches fully
* on still has a dead zone -- a flat region of Q(dphi) around zero where the
* loop has no gain.  So the DUT here is the PFD *with its real charge-pump
* load*, the measured quantity (`qnet`, a raw_measures param= over the
* integrated `qnet2`) is net charge per reference cycle into the control
* node, and the acceptance criterion -- Q(dphi) stays proportional through
* dphi = 0 rather than flattening -- is evaluated per-corner across the
* `dphi` sweep axis by derive_pfd_deadzone.py's derive_tables(), since it
* needs every dphi point of one corner together, which no single point's own
* measurements can express.  width_up/width_dn (the UP/DN pulse widths) are
* recorded alongside as the supporting logic-level evidence, and because the
* minimum UP/DN width IS the PFD reset delay #11's retiming pulse must
* exceed.
*
* dphi is a tb.json `sweeps` axis: ngspice's `alterparam` does not resolve a
* vector-indexed RHS at parameter-substitution time, so an in-deck loop over
* a dphi list was never available even pre-migration -- the pre-migration
* run.sh swept it externally, one ngspice invocation per (corner, dphi)
* point, exactly as the harness's sweep axis now does.

* Charge-pump bias reference.  As in sim/devchar-cp, the four bias nodes are
* driven from ideal current sources at 4x the unit-leg current (the bias
* diodes are 4x the unit geometry, so each leg still mirrors one unit):
* reference generation is a separate block, and driving it ideally here
* keeps the measured behaviour the PFD+CP's own.
.param iunit=8u
* Trim code: b1 b0 = 1 0 -> Icp = 3 units (the nominal setting, mid-range of
* the 2-bit trim -- see design/README.md).  Not swept here: cp-compliance
* characterizes the trim axis; the unit-element trim construction leaves the
* dead-zone property unchanged across codes (every code runs the same
* per-leg current).
.param b0_code=0
.param b1_code=1

* Control-node voltage this measurement is taken at: mid of the ~0.9-2.4 V
* Vctrl window from DR-001 Decision 2.  Held by an ideal source so the
* measured quantity is the pump's delivered charge, not the loop filter's
* response to it (the filter is #10).
.param vctrl=1.65

*------------------------------------------------------------------ supplies
vdd vdd 0 dc 'vdd_val'
vss vss 0 dc 0

* Reference period 40 ns (25 MHz) -- the TOP of DR-002 Decision 1's ratified
* 1-25 MHz v1 reference range, deliberately: the reset-and-recover window is
* the smallest fraction of the reference period there, so 25 MHz is the
* demanding end for a dead-zone claim, and a result that holds here holds for
* every slower reference in the range.  Edges get a 200 ps rise/fall rather
* than an ideal step: a zero-rise-time stimulus would flatter every delay in
* the PFD's set path and understate the reset delay this record reports.
.param period=40n
.param tstart=20n
vref ref 0 pulse(0 'vdd_val' 'tstart' 200p 200p '0.5*period' period)
vfb  fb  0 pulse(0 'vdd_val' 'tstart+dphi' 200p 200p '0.5*period' period)

* Static trim code.
vb0 b0 0 dc 'vdd_val*b0_code'
vb1 b1 0 dc 'vdd_val*b1_code'

* Ideal bias references (see note above).
iibn vdd ibn dc 'iunit'
iicn vdd icn dc 'iunit'
iibp ibp 0 dc 'iunit'
iicp icp 0 dc 'iunit'

xdut ref fb b0 b1 ibn icn ibp icp vout up dn vdd vss pfd_cp

* Control node held at vctrl through an ammeter, so i(vam) is exactly the
* charge-pump output current (positive = pump sourcing into the control node).
vam vout vctrl_src 0
vctrl vctrl_src 0 dc 'vctrl'
